US08404684B2
13a) 1-(2-Morpholin-4-yl-pyridin-4-yl)-propan-2-one
A stirred solution of 1-(2-chloro-pyridin-4-yl)-propan-2-one (1.6 g, 9.47 mmol) in morpholine is heated to 105° C. for 3 days. The morpholine is removed in vacuo to yield the crude product. Purification by chromatography on silica, eluting with 1:1 ethyl acetate-hexane affords the title compound.

reactant | 1-(2-chloro-pyridin-4-yl)-propan-2-one | 9.47 mmol, 1.6 g | ClC1=NC=CC(=C1)CC(C)=O | C8H8ClNO
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 1-(2-Morpholin-4-yl-pyridin-4-yl)-propan-2-one | N1(CCOCC1)C1=NC=CC(=C1)CC(C)=O | C12H16N2O2
